US07521579B2
A 80% solution of propargyl bromide in toluene (39,1 g, 0,263 mol) is added slowly at room temperature to a mixture of 2-(4-chloro-phenyl)-2-hydroxy-N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-acetamide (35.25 g, 0,105 mol), 30% sodium hydroxide solution (52,4 ml, 0,524 mmol) and tetrabutylammonium bromide (1,8 g) in 180 ml of dichloroethane. The reaction mixture is stirred for 16 hours at +40° C. Subsequently the mixture is evaporated and the residue is diluted with water (100 ml) and dichloroethane (100 ml). The organic phase is separated and the aqueous layer is extracted with dichloroethane. The combined organic phases are washed with brine (150 ml), dried over sodium sulfate and evaporated. The remaining oil is purified by chromatography on silica gel (ethyl acetate/hexane 1:1) to yield 2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-2-prop-2-ynyloxy-acetamide, m.p. 90-92° C.

reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | toluene | 0,263 mol, 39,1 g | C1(=CC=CC=C1)C | C7H8
reactant | 2-(4-chloro-phenyl)-2-hydroxy-N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-acetamide | 0,105 mol, 35.25 g | ClC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)O)OC)O | C17H18ClNO4
reactant | sodium hydroxide | 0,524 mmol, 52,4 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 1,8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloroethane | 180 ml | ClC(C)Cl | C2H4Cl2
product | 2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-2-prop-2-ynyloxy-acetamide | ClC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)OCC#C | C23H22ClNO4
